US03992539
Preparation of 3-Trifluoromethyl-6-methyl-s-triazolo-[3,4-a]-isoquinoline: ##SPC2##
1-Hydrazino-4-methylisoquinoline (5.0 g.) and trifluoroacetic acid (70 ml.)were heated at reflux for three hours. After removal of the excess trifluoroacetic acid, the residue was dissolved in chloroform and extracted with sodium carbonate solution. The organic layer was dried and concentrated and the residue was recrystallized from a cyclohexane-benzene(70/30) mixture to provide the product in a yield of 65%, m.p. 162°-164°C.

reactant | 1-Hydrazino-4-methylisoquinoline | 5.0 g | N(N)C1=NC=C(C2=CC=CC=C12)C | C10H11N3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 3-Trifluoromethyl-6-methyl-s-triazolo-[3,4-a]-isoquinoline | yield of 65% | FC(C1=NN=C2N1C=C(C1=CC=CC=C21)C)(F)F | C12H8F3N3
